US07375233B2
1,2-Benzisoxazole-3-acetic acid (200 g; 1.13 mol) was suspended in 1,4-dioxane (600 mL). The mixture was cooled in an ice-bath and chlorosulfonic acid (82.6 mL, 1.24 mol, 1.1 eq) was added maintaining the internal temperature below 20° C. The mixture was heated to 60-65° C. for 9½ h and cooled to room-temperature. CELITE™ (20 g) was added followed by xylenes (1000 mL) and the mixture was stirred for one hour at room temperature. It was filtered and concentrated. The suspension obtained was heated to 50-60° C. for three hours and then gradually cooled to 0-5° C. and filtered. The precipitate was filtered off under a nitrogen atmosphere and washed with 400 mL 1,4-dioxane/xylenes (v/v=1:9). It was dried at 60° C. for approximately 16 hours in a vacuum oven (≦1 mm Hg) to give 218.14 g crystalline anhydrous 1,2-benzisoxazole-3-methanesulfonic acid (90.6%) with a HPLC purity of 99.4%.

reactant | 1,2-Benzisoxazole-3-acetic acid | 1.13 mol, 200 g | O1N=C(C2=C1C=CC=C2)CC(=O)O | C9H7NO3
reactant | chlorosulfonic acid | 1.24 mol, 82.6 mL, 1.1 eq | ClS(=O)(=O)O | ClHO3S
solvent | 1,4-dioxane | 600 mL | O1CCOCC1 | C4H8O2
product | 1,2-benzisoxazole-3-methanesulfonic acid | 218.14 g, 90.6% | O1N=C(C2=C1C=CC=C2)CS(=O)(=O)O | C8H7NO4S
